US08623869B2
Step 1: 3-(1-(Hydroxyimino)ethyl)benzoic acid
3-Acetylbenzoic acid (10.0 g, 60.9 mmol), hydroxylamine hydrochloride (33.9 g, 487.4 mmol) and sodium acetate (45.0 g, 548.3 mmol) were suspended in ethanol (115 mL) and water (115 mL) and the mixture heated at reflux for 30 minutes. The solvents were removed under reduced pressure, and the residue was triturated with water. The resulting precipitate was isolated by filtration and dried in vacuo to give the sub-title compound as a white solid (10.34 g, 95% yield). 1H NMR (400 MHz, DMSO) δ 2.18 (s, 3H), 7.52 (t, 1H), 7.88 (dd, 1H), 7.91-7.95 (m, 1H), 8.22 (s, 1H), 11.36 (s, 1H) and 12.86 (s, 1H); MS (ES+) 180.3.

reactant | 3-Acetylbenzoic acid | 60.9 mmol, 10.0 g | C(C)(=O)C=1C=C(C(=O)O)C=CC1 | C9H8O3
reactant | hydroxylamine hydrochloride | 487.4 mmol, 33.9 g | Cl.NO
reactant | sodium acetate | 548.3 mmol, 45.0 g | C(C)(=O)[O-].[Na+]
reactant | water | 115 mL | O | H2O
solvent | ethanol | 115 mL | C(C)O | C2H6O
product | 3-(1-(Hydroxyimino)ethyl)benzoic acid | 10.34 g, 95% yield | ON=C(C)C=1C=C(C(=O)O)C=CC1 | C9H9NO3
